* Netlist

V1 Vin 0 DC 0
M1 2 Vin 0 0 NMOS
I1 4 3 DC 0
R1 4 3 0.001

* Connections
* Node 2 is the node for all Q1 terminals except the gate
* Node 3 is connected to GND
* Node 4 is connected to Iout

.END